US07994196B2
4-{[(Trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)carboxylic acid tert-butyl ester (synthesized according to the method described in Synthesis, 1991, 993-995, 1.0 g), 3-chloro-4-fluorophenylboric acid (Aldrich Co., 790 mg), lithium chloride (380 mg), tetrakistriphenylphosphine palladium (170 mg) and a 2N sodium carbonate aqueous solution (5 ml) were added to dimethoxyethane (12 ml), and the mixture was heated under reflux for 6 hr. After completion of the reaction, the reaction mixture was washed with a sodium carbonate aqueous solution and aqueous ammonia, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (20:1-10:1)). The intermediate was dissolved in methylene chloride, and trifluoroacetic acid was added. The mixture was stirred at room temperature for 8 hr. After completion of the reaction, a saturated aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure. The precipitated solid was collected by filtration to give 4-(3-chloro-4-fluorophenyl)-1,2,3,6-tetrahydropyridine (357 mg, yield 56%).

reactant | 4-{[(Trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | 3-chloro-4-fluorophenylboric acid | 790 mg | ClC=1C=C(C=CC1F)OB(O)O | C6H5BClFO3
reactant | lithium chloride | 380 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2N, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethoxyethane | 12 ml | C(OC)COC | C4H10O2
product | 4-(3-chloro-4-fluorophenyl)-1,2,3,6-tetrahydropyridine | 357 mg, yield 56% | ClC=1C=C(C=CC1F)C=1CCNCC1 | C11H11ClFN
